US06399627B1
To a solution of 3-((1E)-1-(methoxymethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)-benzenecarboxamidine (5 mg, 0.01 mmol) in 4 ml methanol was added 10% Pd on carbon (1 mg). Mixture was treated with hydrogen at 1 atmosphere under balloon for 1 hr. Reaction was filtered through a pad of Celite, concentrated and lyophilized to give 3-(1-(methoxymethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}-ethyl)benzenecarboxamidine (5 mg, 100%) as a fluffy white powder. ES-MS (M+H+): 467.15

reactant | 3-((1E)-1-(methoxymethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)-benzenecarboxamidine | 0.01 mmol, 5 mg | COC\C(=C\C(NC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)=O)\C=1C=C(C=CC1)C(=N)N | C24H24N4O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 4 ml | CO | CH4O
catalyst | Pd on carbon | 1 mg | [Pd] | Pd
product | 3-(1-(methoxymethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}-ethyl)benzenecarboxamidine | 5 mg, 100% | COCC(CC(NC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)=O)C=1C=C(C=CC1)C(=N)N | C24H26N4O4S
